US04232024
Ethyl-7-methoxy-1-oxo-1H-pyrimido[6,1-b]benzthiazole-4-carboxylate.
20 g. of the sodium salt of 7-methoxy-1-oxo-1H-pyrimido[6,1-b]benzthiazole-4-carboxylic acid prepared according to Example 1C are slurried in 200 ml. hexametapol and mixed at ambient temperature with 23.45 g. ethyl iodide. The reaction mixture is stirred for 80 minutes and the resultant solution poured into 3 liters of water. The precipitate obtained is separated off and, while still moist, boiled with 500 ml. ethanol and brought into solution by the addition of some nitromethane. After cooling, 12.9 g. (63.3% of theory) ethyl 7-methoxy-1-oxo-1H-pyrimido[6,1-b]benzthiazole-4-carboxylate crystallize out; m.p. 231°-232° C.

reactant | sodium | [Na] | Na
reactant | 7-methoxy-1-oxo-1H-pyrimido[6,1-b]benzthiazole-4-carboxylic acid | COC1=CC2=C(N3C(S2)=C(C=NC3=O)C(=O)O)C=C1 | C12H8N2O4S
reactant | hexametapol | O=P(N(C)C)(N(C)C)N(C)C | C6H18N3OP
reactant | ethyl iodide | C(C)I | C2H5I
solvent | water | 3 liters | O | H2O
product | Ethyl-7-methoxy-1-oxo-1H-pyrimido[6,1-b]benzthiazole-4-carboxylate | C(C)OC(=O)C=1C=NC(N2C1SC1=C2C=CC(=C1)OC)=O | C14H12N2O4S
